US04876267
(i) 4[2-[4-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)butylidene]hydrazino]-N-phenyl benzenesulphonamide
Finely-divided phthalimidobutyraldehyde diethyl acetal (0.5 g) was added to a stirred solution of 4-hydrazino-N-phenyl-benzenesulphonamide (0.5 g) in 25% aqueous acetic acid (50 ml). After 30 min, the solution was basified (Na2CO3) and extracted with ethyl acetate (2×50 ml). The combined organic extracts were dried (MgSO4) and evaporated in vacuo to give an oil which was purified by flash chromatography eluted with ether to give the title compound as a solid (0.3 g) m.p. 126°-129°.

reactant | phthalimidobutyraldehyde diethyl acetal | 0.5 g | C(C)OC(C(CC)N1C(C=2C(C1=O)=CC=CC2)=O)OCC | C16H21NO4
reactant | 4-hydrazino-N-phenyl-benzenesulphonamide | 0.5 g | N(N)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=CC=C1 | C12H13N3O2S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4[2-[4-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)butylidene]hydrazino]-N-phenyl benzenesulphonamide | 0.3 g | O=C1N(C(C2=CC=CC=C12)=O)CCCC=NNC1=CC=C(C=C1)S(=O)(=O)NC1=CC=CC=C1 | C24H22N4O4S
